US08198287B2
13.2 (+/−)10-Methyl-2-pyrimidin-4-yl-7,8,9,10-tetrahydro -6H-pyrimido[1,2-a]azepin-4-one
To a solution of 26.1 g (107.73 mmol) of 2-pyrimidin-4-yl-7,8,9,10-tetrahydro-6H-pyrimido[1,2-a]azepin-4-one in dry tetrahydrofuran (450 mL) under argon at −78° C. was added 82.5 mL (82.5 mmol) of lithium bis(trimethylsilyl)amide (1M in tetrahydrofuran). The solution was stirred at −78° C. for 10 min and 25.7 mL of methyl iodide (412.7 mmol) was added. The reaction was stirred at −78° C. for 1 h and then at 0° C. for 2 h. The mixture was quenched with the addition of a saturated solution of ammonium chloride and extracted with ethyl acetate. The organic phase was dried over sodium sulfate and concentrated. The residue was chromatographed on silica gel eluting with a mixture of dichloromethane/methanol in the proportions 99/1 to afford 11.0 g (40%) of the desired compound as a white solid.

reactant | 2-pyrimidin-4-yl-7,8,9,10-tetrahydro-6H-pyrimido[1,2-a]azepin-4-one | 107.73 mmol, 26.1 g | N1=CN=C(C=C1)C=1N=C2N(CCCCC2)C(C1)=O | C13H14N4O
reactant | lithium bis(trimethylsilyl)amide | 82.5 mmol, 1M, 82.5 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | methyl iodide | 412.7 mmol, 25.7 mL | CI | CH3I
solvent | tetrahydrofuran | 450 mL | O1CCCC1 | C4H8O
product | (+/−)10-Methyl-2-pyrimidin-4-yl-7,8,9,10-tetrahydro -6H-pyrimido[1,2-a]azepin-4-one | 11.0 g, 40% | CC1C=2N(CCCC1)C(C=C(N2)C2=NC=NC=C2)=O | C14H16N4O
